US07884207B2
Under a nitrogen atmosphere a mixture of 1-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclohexylamine (2.00 g, 5.91 mmol, Example 54 Parts A through G) and THF (40 mL) was cooled in an ice bath. Sodium hydroxide (0.24 g, 5.97 mmol, in 3 mL of water) was added dropwise followed by diethylpyrocarbonate (0.87 mL, 5.91 mmol). After two days an additional 0.5 eq of both sodium hydroxide and diethylpyrocarbonate were added. After 5 days the reaction mixture was concentrated under reduced pressure. The residue was partitioned between water (100 mL) and dichloromethane (100 mL). The organic was dried over magnesium sulfate, filtered, and then concentrated under reduced pressure to provide an oil. This material was purified by column chromatography (silica gel eluting with 95/5 ethyl acetate/methanol) to provide 1.89 g of ethyl 1-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclohexylcarbamate as a clear oil.

reactant | 1-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclohexylamine | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)N | C20H26N4O
reactant | Sodium hydroxide | 5.97 mmol, 3 mL, 0.24 g | [OH-].[Na+]
reactant | diethylpyrocarbonate | 5.91 mmol, 0.87 mL | C(C)OC(=O)OC(=O)OCC | C6H10O5
reactant | sodium hydroxide | 0.5 eq | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ethyl 1-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclohexylcarbamate | 1.89 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)NC(OCC)=O | C23H30N4O3
